US09029360B2
(6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(5,6,8,9-tetrahydro-pyrido[2,3-d]azepin-7-yl)-methanone
73 mg (0.23 mmol) TBTU was added to 50 mg (0.21 mmol) 6-Bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid, 31 mg (0.21 mmol) 6,7,8,9-Tetrahydro-5H-pyrido[2,3-d]azepine and 90 μL (0.64 mmol) TEA in 1.5 mL DMF and stirred at RT overnight. The reaction mixture was purified by HPLC chromatography and lyophilized. Yield: 22 mg (29% of theory). ESI-MS: m/z=372 (M+H)+; Rt(HPLC): 0.81 min. (Method J).

reactant | TBTU | 0.23 mmol, 73 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | 6-Bromo-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | 0.21 mmol, 50 mg | BrC=1C=NC=2N(C1)N=C(C2)C(=O)O | C7H4BrN3O2
reactant | 6,7,8,9-Tetrahydro-5H-pyrido[2,3-d]azepine | 0.21 mmol, 31 mg | N1=CC=CC2=C1CCNCC2 | C9H12N2
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
product | (6-Bromo-pyrazolo[1,5-a]pyrimidin-2-yl)-(5,6,8,9-tetrahydro-pyrido[2,3-d]azepin-7-yl)-methanone | BrC=1C=NC=2N(C1)N=C(C2)C(=O)N2CCC1=C(CC2)C=CC=N1 | C16H14BrN5O
